US07705034B2
2-(Benzo[b]thiophen-2-yl-phenyl-methyl)-3-hydroxy-4-methyl-4-phenyl-cyclobut-2-enone
Using general procedure D, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with benzo[b]thiophen-2-yl-phenyl-methanol to give the title compound as a colorless solid. MS: 395.3 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | benzo[b]thiophen-2-yl-phenyl-methanol | S1C2=C(C=C1C(O)C1=CC=CC=C1)C=CC=C2 | C15H12OS
product | 2-(Benzo[b]thiophen-2-yl-phenyl-methyl)-3-hydroxy-4-methyl-4-phenyl-cyclobut-2-enone | S1C2=C(C=C1C(C=1C(C(C1O)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1)C=CC=C2 | C26H20O2S
